US05025012
To a solution of 5.15 g of methyl 6-chloronicotinate, 3.15 g of 1-methylpiperazine and 3.18 g of diisopropylamine in 50 ml of DMF was added a catalytic amount of NaI. The mixture was heated to 120°-130° C. and stirred for 4 hours. The resulting mixture was poured into 250 ml of water followed by extraction with ethyl acetate. The extract was washed twice with water, and once with a saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate and concentrated. Purification of the concentrate by column chromatography (silica gel; chloroform:methanol=3:1) afforded 5.39 g of methyl 6-(4-methyl-1-piperazinyl)nicotinate (yield 77%).

reactant | methyl 6-chloronicotinate | 5.15 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | 1-methylpiperazine | 3.15 g | CN1CCNCC1 | C5H12N2
reactant | diisopropylamine | 3.18 g | C(C)(C)NC(C)C | C6H15N
reactant | NaI | [Na+].[I-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
product | methyl 6-(4-methyl-1-piperazinyl)nicotinate | 5.39 g, yield 77% | CN1CCN(CC1)C1=NC=C(C(=O)OC)C=C1 | C12H17N3O2
